US06673795B2
In analogy to the procedure described in example 75a-c, 1-phenyl-1,2-propanedione and 2-aminomalonamide were heated in an aqueous solution to give 5-methyl-3-oxo-6-phenyl-3,4-dihydro-pyrazine-2-carboxylic acid amide. Then, the 5-methyl-3-oxo-6-phenyl-3,4-dihydro-pyrazine-2-carboxylic acid amide was treated with triethylamine and phosphorus pentachloride in phosphorus oxychloride at reflux to give 3-chloro-5-methyl-6-phenyl-pyrazine-2-carbonitrile. The 3-chloro-5-methyl-6-phenyl-pyrazine-2-carbonitrile was finally treated with 1-(4-fluorophenyl)piperazine and N-ethyldiiso-propyl-amine in N,N-dimethylformamide at room temperature to yield the 4-(4-fluoro-phenyl)-6′-methyl-5′-phenyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-carbonitrile as yellow solid; m.p. 117-120° C.; MS: 374 (M+H)+.

reactant | 3-chloro-5-methyl-6-phenyl-pyrazine-2-carbonitrile | ClC=1C(=NC(=C(N1)C)C1=CC=CC=C1)C#N | C12H8ClN3
reactant | 1-(4-fluorophenyl)piperazine | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | N-ethyldiiso-propyl-amine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(4-fluoro-phenyl)-6′-methyl-5′-phenyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-carbonitrile | FC1=CC=C(C=C1)N1CCN(CC1)C1=NC(=C(N=C1C#N)C1=CC=CC=C1)C | C22H20FN5
